US09120837B2
To a solution of di-tert-butyl 2,2′-((2-(2-(((4-sulfamoylphenethyl)amino)methyl)-1H-imidazol-1-yl)acetyl)azanediyl)diacetate (200 mg, 0.353 mmol), di-tert-butyl 4-(3-(tert-butoxy)-3-oxopropyl)-4-(2-(2-formyl-1H-imidazol-1-yl)acetamido)heptanedioate (195 mg, 0.353 mmol), AcOH (0.10 mL) in DCE (10 mL) at 0° C. was treated with NaBH(OAc)3 (148 mg, 0.70 mmol). The reaction mixture was stirred at 0° C. for 30 minutes and at room temperature for overnight and decomposed with water. The reaction mixture was concentrated under reduced pressure to give a residue. The residue was purified by biotage over silica gel to afford di-tert-butyl 4-(2-(2-((((1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)(4-sulfamoylphenethyl)amino)methyl)-1H-imidazol-1-yl)acetamido)-4-(3-(tert-butoxy)-3-oxopropyl)heptanedioate (237 mg, 61%). 1H NMR (400 MHz, DMSO-d6) 7.76 (s, 1H), 7.66 (d, J=8.4 Hz, 1H), 7.23 (d, J=8.4 Hz, 2H), 7.22 (s, 2H), 7.01 (d, J=1.2 Hz, 1H), 6.99 (d, J=1.6 Hz, 2H), 6.83 (d, J=0.8 Hz, 1H), 6.80 (d, J=0.8 Hz, 1H), 5.02 (s, 2H), 4.55 (s, 2H), 4.31 (s, 2H), 3.97 (s, 2H), 3.63 (s, 2H), 3.60 (s, 2H), 2.77-2.73 (m, 2H), 2.66-2.60 (m, 2H), 2.10 (t, J=8.2 Hz, 6H), 1.78 (t, J=8.2 Hz, 6H), 1.36 (s, 45H); MS (ESI), 551.4 (M/2+H)+.

reactant | di-tert-butyl 2,2′-((2-(2-(((4-sulfamoylphenethyl)amino)methyl)-1H-imidazol-1-yl)acetyl)azanediyl)diacetate | 0.353 mmol, 200 mg | S(N)(=O)(=O)C1=CC=C(CCNCC=2N(C=CN2)CC(=O)N(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)C=C1 | C26H39N5O7S
reactant | di-tert-butyl 4-(3-(tert-butoxy)-3-oxopropyl)-4-(2-(2-formyl-1H-imidazol-1-yl)acetamido)heptanedioate | 0.353 mmol, 195 mg | C(C)(C)(C)OC(CCC(CCC(=O)OC(C)(C)C)(CCC(=O)OC(C)(C)C)NC(CN1C(=NC=C1)C=O)=O)=O | C28H45N3O8
reactant | AcOH | 0.10 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.70 mmol, 148 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | di-tert-butyl 4-(2-(2-((((1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)(4-sulfamoylphenethyl)amino)methyl)-1H-imidazol-1-yl)acetamido)-4-(3-(tert-butoxy)-3-oxopropyl)heptanedioate | 237 mg, 61% | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCC1=CC=C(C=C1)S(N)(=O)=O)CC=1N(C=CN1)CC(=O)NC(CCC(=O)OC(C)(C)C)(CCC(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O | C54H84N8O14S
